US09278953B2
To a stirred solution of 2-(6-Chloro-2-methoxypyridin-3-yl)propanenitrile (1850 g, 9439 mmol) in MeOH (20 L) was added MeOH/HCl (about 2 M) at r.t. After the addition, the resulting mixture was heated at reflux for 12 hours. The reaction mixture was evaporated to move most of MeOH, and the residue was diluted with H2O (6 L) and basified to pH=9˜10 with solid NaHCO3. The aqueous layer was extracted with CH2Cl2 (15 L). The organic layer was washed with water (10 L) and brine (10 L), dried over Na2SO4 and concentrated to dryness. The crude residue was purified by column chromatography (petroleum ether/EtOAc=100:0˜80:20) to afford methyl 2-(6-chloro-2-methoxypyridin-3-yl)propanoate (1450 g, 67%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 1.44 (d, 3H), 3.67 (s, 3H), 3.91 (q, 1H), 3.95 (s, 3H), 6.89 (d, 1H), 7.45 (d, 1H).

reactant | 2-(6-Chloro-2-methoxypyridin-3-yl)propanenitrile | 9439 mmol, 1850 g | ClC1=CC=C(C(=N1)OC)C(C#N)C | C9H9ClN2O
reactant | MeOH HCl | about 2 M | CO.Cl
reactant | MeOH | 20 L | CO | CH4O
product | methyl 2-(6-chloro-2-methoxypyridin-3-yl)propanoate | 1450 g, 67% | ClC1=CC=C(C(=N1)OC)C(C(=O)OC)C | C10H12ClNO3
